US09145433B2
Aqueous HCl (2N, 20 mL) was added to the stirring solution of 4-(2-(4-fluoro-3-methylphenyl)pyridin-3-yl)-2-methoxypyrimidine (1.3 g) in MeOH (10 mL) and heated at 90° C. for 12 h. The reaction mixture was concentrated by rotary evaporator under reduced pressure and neutralized the resultant pale yellow viscous material with aq. NaHCO3 solution. The slurry thus formed upon neutralization was stirred at room temperature for 20 min. The solid was collected by filtration, washed with water, suction dried. After 6 h, the solid was further dried over P2O5 under high vacuum to provide 6-(2-(4-fluoro-3-methylphenyl)pyridin-3-yl)pyrimidin-2(1H)-one as a white solid (0.87 g). 1H NMR (300 MHz, DMSO-d6): δ 11.92 (s, 1H), 8.74 (dd, J=4.8, 1.7 Hz, 1H), 7.98 (dd, J=7.8, 1.7 Hz, 1H), 7.80 (app d, J=6.0 Hz, 1H), 7.51 (dd, J=7.8, 4.8 Hz, 1H), 7.43 (dd, J=7.7, 2.1 Hz, 1H), 7.24-7.02 (m, 2H), 5.96 (d, J=6.0 Hz, 1H), 2.22 (app s, 3H). 19F NMR (282 MHz, DMSO-d6) δ −117.63.

reactant | HCl | 2N, 20 mL | Cl | ClH
reactant | 4-(2-(4-fluoro-3-methylphenyl)pyridin-3-yl)-2-methoxypyrimidine | 1.3 g | FC1=C(C=C(C=C1)C1=NC=CC=C1C1=NC(=NC=C1)OC)C | C17H14FN3O
solvent | MeOH | 10 mL | CO | CH4O
product | 6-(2-(4-fluoro-3-methylphenyl)pyridin-3-yl)pyrimidin-2(1H)-one | 0.87 g | FC1=C(C=C(C=C1)C1=NC=CC=C1C1=CC=NC(N1)=O)C | C16H12FN3O
